US08440830B2
To a solution of compound (Benzo[1,3]dioxol-5-ylamino)-acetic acid ethyl ester in methanol was added lithium hydroxide (1.2 eq.) and stirred for overnight. Reaction mixture was then concentrated and neutralized to afford (Benzo[1,3]dioxol-5-ylamino)-acetic acid.

reactant | (Benzo[1,3]dioxol-5-ylamino)-acetic acid ethyl ester | C(C)OC(CNC1=CC2=C(OCO2)C=C1)=O | C11H13NO4
reactant | lithium hydroxide | 1.2 eq. | [OH-].[Li+]
solvent | methanol | CO | CH4O
product | (Benzo[1,3]dioxol-5-ylamino)-acetic acid | O1COC2=C1C=CC(=C2)NCC(=O)O | C9H9NO4
